US04972009
alpha-[(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)-methyl]-N-[2-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)-aminocarbonyl)ethyl]nitrone
Following the general procedure of Example 6, the title compound is prepared from N,N-bis[2-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)ethyl]hydroxylamine. This intermediate is prepared from N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)acrylamide and hydroxylamine.

reactant | N,N-bis[2-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)ethyl]hydroxylamine | CC1(NC(CC(C1)N(C(=O)CCN(O)CCC(=O)N(C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C42H81N7O3
reactant | N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)acrylamide | CC1(NC(CC(C1)N(C(C=C)=O)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C21H39N3O
reactant | hydroxylamine | NO | H3NO
product | alpha-[(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl)-methyl]-N-[2-(N,N-bis(2,2,6,6-tetramethylpiperidin-4-yl)-aminocarbonyl)ethyl]nitrone | CC1(NC(CC(C1)N(C(=O)CC=[N+]([O-])CCC(=O)N(C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C42H79N7O3
